US06350913B1
2-[2-(Isopropoxy-5-vinylphenoxy)ethyl]isoindole-1,3-dione (4b)
0.42 g of potassium tert-butoxide (3.75 mmol) is added portionwise to a suspension of 1.34 g of methyltriphenylphosphonium bromide (3.75 mmol) in 7.5 ml of tetrahydrofuran. The mixture is stirred for one hour at room temperature and is then cooled to 0° C. A solution of 1.20 g (3.4 mmol) of 3-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)ethoxy]-4-isopropoxybenzaldehyde in 7 ml of tetrahydrofuran is then introduced. The mixture is then stirred at room temperature for 16 hours, after which it is poured into saturated aqueous ammonium chloride solution. This mixture is extracted with dichloromethane, the organic phase is washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and filtered, and the solvent is evaporated off under vacuum. The residue is purified by chromatography on a column of silica (eluent: 80/20 cyclohexane/ethyl acetate). 0.77 g of a yellow oil which crystallizes is obtained:

reactant | potassium tert-butoxide | 3.75 mmol, 0.42 g | CC(C)([O-])C.[K+]
reactant | 3-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)ethoxy]-4-isopropoxybenzaldehyde | 3.4 mmol, 1.20 g | O=C1N(C(C2=CC=CC=C12)=O)CCOC=1C=C(C=O)C=CC1OC(C)C | C20H19NO5
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | methyltriphenylphosphonium bromide | 3.75 mmol, 1.34 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2-[2-(Isopropoxy-5-vinylphenoxy)ethyl]isoindole-1,3-dione | C(C)(C)OC1=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C=C(C=C1)C=C | C21H21NO4
